US08013186B2
To a solution of 2,2-difluoro-2-(4-fluorophenoxy)acetic acid (2.2 g, 10.6 mmol) in DCM (20 ml), were added oxalyl chloride (1.02 ml, 12 mmol) and a couple of drops of DMF and the reaction mixture was stirred for 2 h. The reaction mixture was evaporated to dryness and the yellowish residue was dissolved in DCM. The solvent was evaporated again and the residue was left under light vacuum (30 mm Hg) for 1 h. After dissolving the residue in DCM (20 ml), N,O-dimethyl hydroxylamine hydrochloride (1.24 g, 12.7 mmol) and TEA (25.4 mmol) were added. After stirring the reaction mixture overnight at rt, the heterogeneous mixture was washed with water and brine. After drying over sodium sulfate, the solvent was removed under vacuum to yield 2,2-difluoro-2-(4-fluorophenoxy)-N-methoxy-N-methylacetamide as an oil (2.05 g, 77%).

reactant | 2,2-difluoro-2-(4-fluorophenoxy)acetic acid | 10.6 mmol, 2.2 g | FC(C(=O)O)(OC1=CC=C(C=C1)F)F | C8H5F3O3
reactant | oxalyl chloride | 12 mmol, 1.02 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,O-dimethyl hydroxylamine hydrochloride | 12.7 mmol, 1.24 g | Cl.CNOC
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | a couple of drops | CN(C)C=O | C3H7NO
product | 2,2-difluoro-2-(4-fluorophenoxy)-N-methoxy-N-methylacetamide | 2.05 g, 77% | FC(C(=O)N(C)OC)(OC1=CC=C(C=C1)F)F | C10H10F3NO3
